US08012998B2
b) 2-{(SR)-1-[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-trimethylsilanylethynyl-pyridine
To a suspension of 2-{(SR)-1-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-bromo-pyridine (128 mg, 0.253 mmol) and bis(triphenylphosphine) palladium(II) chloride (53 mg, 0.076 mmol) and triphenylphosphine (16.6 mg, 0.0632 mmol) and CuI (11 mg, 0.0578 mmol) in THF (3 mL) and diethylamine (1.5 mL) was added ethynyltrimethylsilane (0.108 mL, 0.759 mmol) under Ar. The mixture was heated at 85° C. over night. The reaction mixture was diluted with ethyl acetate and washed with aq.ammonium chloride solution two times. The separated organic phase was dried over anhydrous sodium sulfate and concentrated in vaccuo after filtration. The residue was purified by silica gel column chromatography (DCM) yielding 89.5 mg (68%) of the titled compound as a light yellow oil. ES-MS m/e: 523.3 (M+H+).

reactant | 2-{(SR)-1-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-bromo-pyridine | 0.253 mmol, 128 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(C)OC1=NC=C(C=C1)Br | C24H23BrCl2N2O
reactant | triphenylphosphine | 0.0632 mmol, 16.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethynyltrimethylsilane | 0.759 mmol, 0.108 mL | C(#C)[Si](C)(C)C | C5H10Si
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | diethylamine | 1.5 mL | C(C)NCC | C4H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.076 mmol, 53 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | CuI | 0.0578 mmol, 11 mg | [Cu]I
product | 2-{(SR)-1-[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-trimethylsilanylethynyl-pyridine | 89.5 mg, 68% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(C)OC1=NC=C(C=C1)C#C[Si](C)(C)C | C29H32Cl2N2OSi
